US04238486
Step D: 1-Acetyl-4-amino-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one-hydrochlorid
Into a stirred solution of 1-acetyl-4-azido-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one (3.5 g., 0.012 mole) in ethylacetate-ethanol (1:1) (200 ml.), containing 4 gm. of 6 N hydrochloric acid and 0.5 g. of 10% palladium on carbon catalyst, is bubbled a stream of hydrogen gas. After 2.5 hours the product which has separated is recovered by filtration. The yield of crude product which contains some of the catalyst is 2.6 g. (72%).

reactant | 1-acetyl-4-azido-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one | 0.012 mole, 3.5 g | C(C)(=O)N1C=C2C=3C(=CC=C(C13)Cl)C(C(C2)N=[N+]=[N-])=O | C13H9ClN4O2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethylacetate ethanol | 200 ml | C(C)OC(C)=O.C(C)O
product | 1-Acetyl-4-amino-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one-hydrochlorid | Cl.C(C)(=O)N1C=C2C=3C(=CC=C(C13)Cl)C(C(C2)N)=O | InChI=1S/C13H11ClN2O2.ClH/c1-6(17)16-5-7-4-10(15)13(18)8-2-3-9(14)12(16)11(7)8;/h2-3,5,10H,4,15H2,1H3;1H
